US06211375B1
(3) Preparation of 3-methyl-2,4,5-trifluorobenzoic Acid
To 27 g of 2-(2,5,6-trifluoro-3,4-dicarboxyphenyl)acetic acid was added 28 ml of N-methylpyrrolidone and 10 ml of triethylamine and the mixture was stirred at 140° C. for 2 days. The reaction solution was poured into 6N hydrochloric acid with cooling, and separated by adding diethylether and aqueous solution of sodium hydroxide. The aqueous layer was acidified and extracted with diethylether.

reactant | 2-(2,5,6-trifluoro-3,4-dicarboxyphenyl)acetic acid | 27 g | FC1=C(C(=C(C(=C1C(=O)O)C(=O)O)F)F)CC(=O)O | C10H5F3O6
reactant | N-methylpyrrolidone | 28 ml | CN1C(CCC1)=O | C5H9NO
reactant | hydrochloric acid | 6N | Cl | ClH
solvent | triethylamine | 10 ml | C(C)N(CC)CC | C6H15N
product | 3-methyl-2,4,5-trifluorobenzoic Acid | CC=1C(=C(C(=O)O)C=C(C1F)F)F | C8H5F3O2
